US04151354
C. N-[[2-[3-(4-Morpholinyl)propoxy]phenyl]methyl]benzeneethanamine
N-[[2-[3-(4-Morpholinyl)propoxy]phenyl]methylene]-benzeneethanamine (17 g) is reduced with 5.4 g of sodium borohydride in 85 ml of methanol following the procedure described in Example 1B to yield 12.8 g of product as an oil, boiling point 219°-223° C. at 0.1-0.2 mm of Hg.

reactant | N-[[2-[3-(4-Morpholinyl)propoxy]phenyl]methylene]-benzeneethanamine | 17 g | N1(CCOCC1)CCCOC1=C(C=CC=C1)C=NCCC1=CC=CC=C1 | C22H28N2O2
reactant | sodium borohydride | 5.4 g | [BH4-].[Na+]
solvent | methanol | 85 ml | CO | CH4O
product | N-[[2-[3-(4-Morpholinyl)propoxy]phenyl]methyl]benzeneethanamine | 12.8 g | N1(CCOCC1)CCCOC1=C(C=CC=C1)CNCCC1=CC=CC=C1 | C22H30N2O2
